US07576094B2
To a solution of triethyl phosphono acetate (35.2 g) in 100 mL THF, at 0° C., was added slowly via a syringe a solution of NaH (6.2 g) in 60 mL THF. The mixture was stirred at 0° C. for 10 minutes, cyclobutanone (10 g) was added by a syringe, and the resulting mixture was stirred at room temperature for 2 hours, followed by addition of distilled water to quench the reaction. The aqueous solution was extracted by ethyl acetate (3×20 mL), the combined organic layers were dried over Na2SO4 and the solvent was removed by evaporation. The crude residue was eluted by column chromatography (10% ethyl acetate/hexane), to give ethyl 2-cyclobutylideneacetate (20 g). 1HNMR (300 MHz, CDCl3) δ=5.57 (s, 1H), 4.13 (q, 2H), 3.11 (m, 2H), 2.81 (m, 2H), 2.08(m, 2H), 1.26 (t) ppm. MS: m/z 370 (100, M+H)+

reactant | triethyl phosphono acetate | 35.2 g | CCOC(=O)CP(=O)(OCC)OCC | C8H17O5P
reactant | NaH | 6.2 g | [H-].[Na+]
reactant | cyclobutanone | 10 g | C1(CCC1)=O | C4H6O
reactant | water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | ethyl 2-cyclobutylideneacetate | 20 g | C1(CCC1)=CC(=O)OCC | C8H12O2
